US03959478
Preparation of 2-(4-Chlorophenyl)-1,2,4-oxadiazolidin-3,5-dione
1-(4-Chlorophenyl)-1-hydroxyurea (34 grams; 0.18 mole) dissolved in aqueous sodium hydroxide (200 ml; 2 N) are charged into a glass reaction vessel equipped with a mechanical stirrer and thermometer. The solution is cooled to a temperature of 10° to 15°C and ethyl chloroformate (17 ml) is slowly added with stirring. After the addition is completed stirring is continued for a period of about 1/2 hour. Water (200 ml) is then added to the reaction mixture with stirring and the resulting mixture is poured into 3 liters of water. The resulting aqueous solution is then filtered and the filtrate is cooled and acidified with concentrated hydrochloric acid to form a precipitate. The precipitate is recovered by filtration and is dried. The resulting product is then dissolved in a 100:5 mixture of methylene chloride and tetrahydrofuran and the solution is dried over anhydrous magnesium sulfate. The dried solution is then stripped of solvent under reduced pressure to yield the desired product 2-(4-chlorophenyl)-1,2,4-oxadiazolidin-3,5-dione.

reactant | 1-(4-Chlorophenyl)-1-hydroxyurea | 0.18 mole, 34 grams | ClC1=CC=C(C=C1)N(C(=O)N)O | C7H7ClN2O2
reactant | ethyl chloroformate | 17 ml | ClC(=O)OCC | C3H5ClO2
reactant | Water | 200 ml | O | H2O
reactant | water | 3 liters | O | H2O
solvent | sodium hydroxide | 2 N, 200 ml | [OH-].[Na+]
product | 2-(4-chlorophenyl)-1,2,4-oxadiazolidin-3,5-dione | ClC1=CC=C(C=C1)N1OC(NC1=O)=O | C8H5ClN2O3
